data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_447941_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:10])/[C:4](=[C:3](\[N:6]([H:11])[H:12])[O:8][H:9])[C:5]1=[C:7]([H:16])[H:17]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4]1/[C:3]([N:6]([H:11])[H:12])([O:8][H:9])[C:5]1=[C:7]([H:16])[H:17])[H:10],54.85102999998247
MR_206711_0,[C:1](=[C:5]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([O:6][H:9])[O:7][H:10])[H:13])([H:11])[H:12]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([C:5](=[C:3]([O:6][H:9])[O:7][H:10])[H:13])([H:11])[H:12],60.82106499999768
MR_647071_2,[C:1]1([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:5]([C:6](=[C:7]([H:21])[H:22])[H:11])([O:8][C:2]([H:12])([H:13])[H:14])[N:9]1[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])(/[C:5]([C:6](=[C:7]([H:21])[H:22])[H:11])=[N:9]/[H:10])[O:8][C:2]([H:12])([H:13])[H:14],55.9290750000072
MR_673079_0,[C:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:16])[H:9])([O:7][H:8])([H:14])[H:15]>>[C:1]([C:6](/[C:3](=[N:2]/[H:9])[N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:16])([O:7][H:8])([H:14])[H:15],72.78121500001305
MR_403702_1,[C:1](=[C:2]([C:3](/[N:6]([H:14])[H:15])=[N:8]\[H:16])\[N:5]([H:12])[H:13])(\[N:4]([H:10])[H:11])[O:7][H:9]>>[C:1]1([N:4]([H:10])[H:11])([O:7][H:9])[C:2]([N:5]([H:12])[H:13])=[C:3]([N:6]([H:14])[H:15])[N:8]1[H:16],33.60325250001708
MR_549058_1,[C:1](=[C:3]([O:6][H:9])[N:7](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:12])[N:5]([H:10])[H:11])([H:13])[H:14]>>[C:1](/[C:3]([O:6][H:9])=[N:7]/[N:5]([H:10])[H:11])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:12])([H:13])[H:14],48.77243749999167
MR_319699_2,[C:1]([C:3]12[C:4]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]\[H:9])[H:10])[N:6]1[O:8]2)([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[C:4]([C:2]([H:14])([H:15])[H:16])\[C:5](=[N:7]/[H:9])[H:10])[N:6]=[O:8])([H:11])([H:12])[H:13],35.244165000011805
MR_250020_1,[C@:1]([C:3]([N:5]([H:11])[H:12])=[O:9])(/[C:4]([N:7]([H:15])[H:16])=[N:8]\[C:2]([H:17])([H:18])[H:19])([N:6]([H:13])[H:14])[H:10]>>[C:1](=[C:4](/[N:7]([H:15])[H:16])[N:8]([C:2]([H:17])([H:18])[H:19])[C:3]([N:5]([H:11])[H:12])=[O:9])(\[N:6]([H:13])[H:14])[H:10],60.568182499994094
MR_512880_1,[C:1](=[N:8][C:6]1([C:3]([H:18])([H:19])[H:20])[C:5]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])([N:7]([H:11])[H:12])[O:9]1)([H:13])[H:14]>>[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])(/[N:8]=[C:6](/[C:3]([H:18])([H:19])[H:20])[C:5]([N:7]([H:11])[H:12])=[O:9])([H:13])[H:14],16.761152500021552
MR_25271_1,[C@@:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([N:5]([H:9])[H:10])=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:13])([N:6]([H:11])[H:12])[H:8]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[N:5]([H:9])[H:10])[C@:7]([C:3]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[H:13])[H:8],72.42416750002278
MR_150085_0,[C:1]([N:2]([N:4]([H:8])[H:9])[H:7])([C:3]([N:5]([H:10])[H:11])=[C:6]([H:14])[H:15])([H:12])[H:13]>>[C:1](=[C:3]([N:5]([H:10])[H:11])[C:6]([N:2]([N:4]([H:8])[H:9])[H:7])([H:14])[H:15])([H:12])[H:13],64.0608475000576
MR_129689_0,[C:1]([C:3](=[C:6]([H:15])[H:16])[O:7][C:2]([N:4]([H:8])[H:9])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:5]([C:2]([N:4]([H:8])[H:9])=[O:7])([H:13])[H:14])=[C:6]([H:15])[H:16])([H:10])([H:11])[H:12],56.709057499999744
MR_269129_1,[C@:1]([C:2](/[C:7](=[C:5](\[C:3]([H:16])([H:17])[H:18])[O:8][H:10])[H:15])([H:13])[H:14])([C:4]([H:19])([H:20])[H:21])([C:6](=[O:9])[H:12])[H:11]>>[C@:1]1([C:4]([H:19])([H:20])[H:21])([H:11])[C:2]([H:13])([H:14])[C@@:7]1([C@:5]([C:3]([H:16])([H:17])[H:18])([C:6](=[O:9])[H:12])[O:8][H:10])[H:15],67.63696999998174
MR_34962_2,[C:1]([C:5]([C:2]([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])([H:14])[H:15])=[C:7]([H:19])[H:20])([N:6]([H:12])[H:13])([O:8][H:9])[H:11]>>[C:1]([C:5]([C:2]([N:4]([C:3]([H:16])([H:17])[H:18])[H:9])([H:14])[H:15])=[C:7]([H:19])[H:20])([N:6]([H:12])[H:13])([O:8][H:10])[H:11],33.81095499999205
MR_51016_1,[C:1](/[N:6]=[C:2](\[N:3]([H:8])[H:9])[O:5][C:4](=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([C:2]([N:3]([H:8])[H:9])=[O:5])[C:4](=[O:7])[H:10])([H:11])([H:12])[H:13],16.14557500000629
MR_234246_0,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](\[C:5]([C:3]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[H:12])[O:8][H:10])[H:11]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:11])[C:4]([O:6][O:7][H:9])([O:8][H:10])[C:5]1([C:3]([H:16])([H:17])[H:18])[H:12],63.470997499977386
MR_584825_0,[C:1]([C:5](/[C:4]([O:8][H:10])=[N:9]\[N:7]([H:11])[H:12])[C:6]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:4]([O:8][H:10])[N:9]([N:7]([H:11])[H:12])[C:6]1([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([H:13])([H:14])[H:15],60.84365499997631
MR_528212_1,[C:1]([C:2]([C:4]([N:6]([H:15])[H:16])=[O:10])([H:17])[H:18])([C:3]([O:8][H:12])=[O:9])([N:5]([H:13])[H:14])[O:7][H:11]>>[C:1]([C:2]([C:4]([C:3]([O:8][H:12])=[O:9])([N:6]([H:15])[H:16])[O:10][H:11])([H:17])[H:18])([N:5]([H:13])[H:14])=[O:7],46.16580250000965
